US06451845B1
[2-(4-Bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3-cyclopentyl-4-hydroxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 5, step 3 using [2-(4bromo-benzyl)4,5-dimethyl-furan-3-yl]-(3-cyclopentyl-4-methoxy-phenyl)-methanone (3.38 g, 7.23 mmol) and 1M boron tribromide/CH2Cl (15.2 mL) in CH2Cl2. Purification on Biotage KP-Sil eluting with 15% acetone/hexane gave 1.66 g (51%) of the title compound. 1H NMR (DMSO-d6) δ 1.39-1.48 (m, 2H), 1.59-1.65 (m, 2H), 1.68-1.76 (m, 2H), 1.79 (s, 3H), 1.88-1.95 (m, 2H), 2.18 (s, 3H), 3.18 (quintet, 1H), 3.81 (s, 2H), 6.87 (d, 1H), 7.04 (d, 2H), 7.43-7.47 (m, 3H), 7.53 (s, 1H), 10.35 (s, 1H). IR (KBr) 3300, 2950, 1650, 1575 and 1280 cm−1. mass spectrum (+ESI) m/z 453 (M+H). Anal. Calcd. for C25H2,BrO 3: C, 66.23; H, 5.56; N, 0.00. Found: C, 66.12; H, 5.49; N, 0.03.

reactant | [2-(4bromo-benzyl)4,5-dimethyl-furan-3-yl]-(3-cyclopentyl-4-methoxy-phenyl)-methanone | 7.23 mmol, 3.38 g | BrC1=CC=C(CC=2OC(=C(C2C(=O)C2=CC(=C(C=C2)OC)C2CCCC2)C)C)C=C1 | C26H27BrO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2-(4-Bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3-cyclopentyl-4-hydroxy-phenyl)-methanone | 1.66 g, 51% | BrC1=CC=C(CC=2OC(=C(C2C(=O)C2=CC(=C(C=C2)O)C2CCCC2)C)C)C=C1 | C25H25BrO3
